Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fever, Sore throat  
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ male with history of HCV (no varices on EGD ___, 
normal abd U/S ___ HTN, who presents with fevers, malaise and 
cough that started ___. Patient says that his symptoms 
began with a cough on ___ and then abruptly developed into 
subjective fevers/chills, body aches and night sweats that 
progressively got worse. He took some OTC Nyquill. No h/a except 
when actively coughing, no diarrhea, no blood in urine or 
stools, no changes in vision, no sick contacts. Patient last 
traveled abroad to ___ ___ years ago, no international travel 
since then. He received the flu shot this year.

Currently, no fevers, chills, SOB, pain, nothing currently 
bothering him. He smokes ___ cigarettes a day but none since 
___. Drinks ___ beers a night in stretches and will then 
stop. Was not drinking for a stretch prior to coming in. He 
denies dyspnea, chest pain, abdominal pain, N/V/D, additional 
complaints. In the ED, initial VS were T 103.4 HR 138 BP 109/80 
RR 16 SpO2 99% RA. Initial labs notable for leukocytosis to 
12.5, lactate 2.6. ALT 105, AST 95. Patient was flu negative. 
CXR notable for RML consolidation. Patient received 2 L NS, 
Ibuprofen 600 mg PO x1, IV CTX and Azithromycin. On arrival to 
the floor, the patient was afebrile but continued to endorse 
sore throat. He appeared comfortable.
 
Past Medical History:
 -Hypertension  
 -Chronic Hepatitis C (Genotype 6)  
 
Social History:
 -Smoked 5 cigarettes per day, drinks 5 EtOH beverages per day  
 
Physical Exam:
 ADMISSION PHYSICAL EXAM:  
 VS T 98.3 HR 107 BP 111/68 RR 18 SpO2 97% RA  
 GENERAL: Tired-appearing but in NAD  
 HEENT: Sclera anicteric, MMM, no oropharyngeal exudates  
 NECK: Supple, no cervical lymphadenopathy  
 CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
 LUNG: R lung field with inspiratory crackles  
 ABDOMEN: Soft, NT, ND. No fluid wave.  
 EXTREMITIES: Warm, well-perfused, no ___ edema  
 PULSES: 2+ DP pulses bilaterally  
 NEURO: Moving all extremities with purpose, no facial 
asymmetry, no asterixis  
 SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

DISCHARGE PHYSICAL EXAM:  
T 98 (Tm 102.4) ___ 97-115 18 99%RA
Weight: 63.3 kg
 GENERAL: Well appearing in NAD  
 HEENT: Sclera anicteric, MMM, no oropharyngeal exudates  
 NECK: Supple, no cervical or axillary lymphadenopathy  
 CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
 LUNG: bibasilar crackles, L>R
 ABDOMEN: Soft, NT, ND. No fluid wave. No caput medusa.
 EXTREMITIES: Warm, well-perfused, no ___ edema, no palmar 
erythema
 PULSES: 2+ DP pulses bilaterally  
 NEURO: Moving all extremities with purpose, no facial 
asymmetry, no asterixis  
 SKIN: warm and well perfused, no excoriations or lesions, no 
rashes, no spider angiomas 
 
Pertinent Results:
ADMISSION LABS:
___ 12:37AM   PLT SMR-LOW PLT COUNT-138*
___ 12:37AM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-NORMAL MACROCYT-NORMAL MICROCYT-NORMAL 
POLYCHROM-NORMAL
___ 12:37AM   NEUTS-66.4 LYMPHS-16.0* MONOS-16.4* EOS-0.4* 
BASOS-0.3 IM ___ AbsNeut-8.28* AbsLymp-1.99 AbsMono-2.04* 
AbsEos-0.05 AbsBaso-0.04
___ 12:37AM   WBC-12.5*# RBC-4.52* HGB-12.9* HCT-38.4* 
MCV-85 MCH-28.5 MCHC-33.6 RDW-13.2 RDWSD-41.0
___ 12:37AM   ALBUMIN-4.0
___ 12:37AM   LIPASE-50
___ 12:37AM   ALT(SGPT)-105* AST(SGOT)-95* ALK PHOS-80 TOT 
BILI-0.5
___ 12:37AM   GLUCOSE-135* UREA N-12 CREAT-0.9 SODIUM-134 
POTASSIUM-4.5 CHLORIDE-95* TOTAL CO2-25 ANION GAP-19
___ 12:46AM   LACTATE-2.6*
___ 01:30AM OTHER BODY FLUID  FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
___ 07:20AM   WBC-9.2 RBC-3.92* HGB-11.1* HCT-33.6* MCV-86 
MCH-28.3 MCHC-33.0 RDW-13.2 RDWSD-41.1
___ 07:20AM   ALBUMIN-3.3* CALCIUM-7.7* PHOSPHATE-2.7 
MAGNESIUM-2.0
___ 07:20AM   ALT(SGPT)-77* AST(SGOT)-53* LD(LDH)-143 ALK 
PHOS-64 TOT BILI-0.4
___ 07:20AM   GLUCOSE-102* UREA N-11 CREAT-0.7 SODIUM-138 
POTASSIUM-3.4 CHLORIDE-102 TOTAL CO2-26 ANION GAP-13
___ 07:54AM   LACTATE-1.3

OTHER LABS:
 
___ 7:21 am Blood (EBV)    **FINAL REPORT ___

   ___ VIRUS VCA-IgG AB (Final ___:    POSITIVE 
BY EIA. 

   ___ VIRUS EBNA IgG AB (Final ___:    POSITIVE 
BY EIA. 

   ___ VIRUS VCA-IgM AB (Final ___: 
      NEGATIVE <1:10 BY IFA. 
      INTERPRETATION: RESULTS INDICATIVE OF PAST EBV INFECTION. 
      In most populations, 90% of adults have been infected at 
sometime
      with EBV and will have measurable VCA IgG and EBNA 
antibodies.
      Antibodies to EBNA develop ___ weeks after primary 
infection and
      remain present for life. Presence of VCA IgM antibodies 
indicates
      recent primary infection. 

STUDIES:

CXR ___:
Left lower lobe pneumonia.

Abdominal Ulrasound ___:
1.  Mild splenomegaly, up to 14 cm, and new since ___. 
2.  No ascites.  Sonographic appearance of the liver is normal, 
similar to the prior exam. 

DISCHARGE LABS:
___ 04:45PM   HIV Ab-Negative
___ 10:28AM BLOOD WBC-6.7 RBC-3.98* Hgb-11.4* Hct-33.8* 
MCV-85 MCH-28.6 MCHC-33.7 RDW-13.2 RDWSD-40.7 Plt ___
___ 10:28AM BLOOD Plt ___
___ 10:28AM BLOOD Glucose-110* UreaN-10 Creat-0.6 Na-139 
K-3.6 Cl-103 HCO3-24 AnGap-16
___ 10:28AM BLOOD ALT-85* AST-66* LD(LDH)-164 AlkPhos-69 
TotBili-0.4
___ 10:28AM BLOOD Albumin-3.4* Calcium-8.6 Phos-3.0 Mg-2.___ year old ___ M with HTN, chronic hepatitis C 
presenting with fever and sore throat found to have LLL PNA and 
sepsis.  

 # LLL PNA and sepsis: Patient febrile to T 103 in ED with 
tachycardia and leukocytosis, lactate 2.6, with repeat lactate 
down to 1.3. This is most likely caused by a pulmonary source 
since his CXR had findings concerning for LLL PNA. Patient has 
been previously healthy, with no recent hospitalizations so we 
treated for community acquired pneumonia with IV ceftriaxone 
(transitioned to PO cefpodoxime) and azithromycin. Last day of 
cefpodoxime is ___, last day of azithromycin is ___. HIV 
test was negative. Patient also has a sore throat but no 
evidence of tonsillar exudates or cervical lymphadenopathy on 
exam. EBV IgG positive, IgM negative. 
 # Chronic Hepatitis C: HCV genotype 6, patient is treatment 
naive. Last HCV VL was 1.4 million in ___. LFTs appear 
stable, less concern for acute hepatitis C. No evidence of 
decompensated cirrhosis on exam or lab findings. Patient is not 
on a ___ medical regimen at home. Abdominal ultrasound was 
performed while inpatient and showed no ascites, masses or 
cirrhosis but mild splenomegaly, up to 14 cm, and since ___. 
 # Hypertension: Per Hepatology notes, takes a medication for 
HTN but unknown med or dose. He has been hypotensive to 
normotensive inpatient.
 # Substance abuse: Patient started on nicotine patches and 
counseled on smoking and alcohol cessation.

TRANSITIONAL ISSUES:
====================
# pneumonia- last day of cefpodoxime is ___, last day of 
azithromycin is ___
# HTN- he has been hypotensive to normotensive inpatient, please 
re evaluate the need for anti-hypertensive (it is unclear what 
medication he was taking but a previous note referred to ___ 
12.5) held on discharge
# HIV negative, please f/u CMV viral load, and blood cultures
# hepatitis C- please reevaluate potential antiviral treatment, 
it appears his insurance did not approve it last time, 
# abdominal ultrasound- did not show cirrhosis, ascites or 
masses, but mild splenomegaly, up to 14 cm, and since ___
# alcohol abuse- patient has been counseled to stop drinking 
especially in the context of hepatitis C
# smoking- patient was advised to stop smoking and started on 
7mg nicotine patches inpatient
# CODE: Full 
# CONTACT: ___ (friend) ___ 

 
Medications on Admission:
- unclear BP medication, perhaps HCTZ 12.5? (stopped on 
discharge)
 
Discharge Medications:
1. Azithromycin 250 mg PO Q24H 
RX *azithromycin 250 mg 1 tablet(s) by mouth once a day Disp #*3 
Tablet Refills:*0
2. Cefpodoxime Proxetil 400 mg PO Q12H 
RX *cefpodoxime 200 mg 2 tablet(s) by mouth twice a day Disp 
#*20 Tablet Refills:*0
3. Cepastat (Phenol) Lozenge 2 LOZ PO Q2H 
RX *phenol [Cepastat] ___ 1 lozenge in mouth every 
four (4) hours Disp #*36 Lozenge Refills:*0
4. Guaifenesin ___ mL PO Q6H 
RX *guaifenesin 100 mg/5 mL ___ mL liquid(s) by mouth twice a 
day Refills:*0
5. Ibuprofen 400 mg PO Q8H:PRN pain or fever 
RX *ibuprofen 200 mg 2 capsule(s) by mouth every eight (8) hours 
Disp #*20 Capsule Refills:*0
6. Nicotine Patch 7 mg TD DAILY 
RX *nicotine 7 ___ patch on new area of skin once a 
day Disp #*14 Patch Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
- community acquired pneumonia
- hepatitis C infection

Secondary:
history of hypertension
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

You were admitted with a pneumonia, which is an infection in 
your lungs. We treated you with antibiotics and you got better. 
We also treated your fevers with ibuprofen and Tylenol. We also 
did your abdominal ultrasound while you were inpatient so you 
don't need to get that done elsewhere. We also did not give your 
blood pressure medication because your blood pressures were low 
while you were here. Please do not take it until you are seen by 
your primary care doctor next week.
Additionally, we highly recommend that you stop drinking 
altogether since you have hepatitis C. We recommend that you 
continue to use the nicotine patches outpatient, but do not 
smoke while you are using those patches, that can be dangerous.

It was a pleasure taking care of you, we wish you health in the 
new year!
Your ___ Team
 
Followup Instructions:
___